US08912186B2
The solution of diethyl 2-[3-(4-chlorophenyl)-3-oxo-1-phenylpropyl]malonate (0.9 g) and 3M NaOH (7.5 ml) in ethanol (30 ml) was heated to reflux for 4 h. The mixture was cooled to rt, poured into water (30 ml), and acidified with 10% HCl. The aqueous layer was extracted three times with ethyl acetate (20 ml) and the combined organic layers were washed with brine and dried (magnesium sulfate). After evaporation of the solvent the residue was recrystallised from benzene to give 2-[3-(4-chlorophenyl)-3-oxo-1-phenylpropyl]malonic acid (0.5 g) as colourless solid.

reactant | diethyl 2-[3-(4-chlorophenyl)-3-oxo-1-phenylpropyl]malonate | 0.9 g | ClC1=CC=C(C=C1)C(CC(C1=CC=CC=C1)C(C(=O)OCC)C(=O)OCC)=O | C22H23ClO5
reactant | NaOH | 3M, 7.5 ml | [OH-].[Na+]
reactant | water | 30 ml | O | H2O
reactant | HCl | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-[3-(4-chlorophenyl)-3-oxo-1-phenylpropyl]malonic acid | 0.5 g | ClC1=CC=C(C=C1)C(CC(C1=CC=CC=C1)C(C(=O)O)C(=O)O)=O | C18H15ClO5
